US04705786
A mixture of 530 mg of 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole, 450 mg of 3-nitrobenzaldehyde and 560 mg of 2-(n-propoxy)ethyl 3-aminocrotonate in 3 ml of isopropyl alcohol was heated under reflux for 8 hours. The reaction mixture was concentrated in vacuo and the residue was chromatographed on silica gel using benzene-acetonitrile (10:1) as eluent to give 1.35 g of 2-(n-propoxy)ethyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylate. Recrystallization from n-hexane-isopropylalcohol afforded pale yellow crystals, m.p. 129°-130° C.

reactant | 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole | 530 mg | C(C(=O)C)C1=NC(=NO1)CCl | C6H7ClN2O2
reactant | 3-nitrobenzaldehyde | 450 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-(n-propoxy)ethyl 3-aminocrotonate | 560 mg | N\C(=C/C(=O)OCCOCCC)\C | C9H17NO3
solvent | isopropyl alcohol | 3 ml | C(C)(C)O | C3H8O
product | 2-(n-propoxy)ethyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylate | 1.35 g | CC=1NC(=C(C(C1C1=NC(=NO1)CCl)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOCCC)C | C22H25ClN4O6
